US07151070B2
Preparation of 2,2′-Bis-(methoxymethoxy)-3,3′-Diformylbibenzene
2,2′-Bis-(methoxymethoxy)bibenzene (7.5 g, 27.4 mmol) was dissolved in 300 mL of anhydrous Et2O in a 500 mL of three-necked bottle, while stirring, 80 mmol (50 mL, 1.6M solution in hexane) of nBuLi was added dropwise under Ar atmosphere, the mixture was stirred at room temperature for 2 h. After cooled to 0° C., DMF (20 mL, 260 mmol) in THF (20 mL) was added, and the solution was stirred at room temperature for another 4 h. Saturated NH4Cl (150 mL) was added to quench the reaction. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (100 mL×3). The combined organic phase was washed with water (100 mL) and brine (100 mL) successively and dried over anhydrous MgSO4. Concentration with a rotary evaporator and subsequent chromatography on silica gel eluted with petroleum ether/ethyl acetate (3:1) afforded the product 3.925 g (47% yield) as a yellow oil. 1HNMR (300 MHz, CDCl3) δ (ppm) 3.15 (s, 6H), 4.81 (s, 4H), 7.37 (dd, J=0.9, 8.4 Hz, 2H), 7.67 (dd, J=1.8, 7.5 Hz, 2H), 7.93 (dd, J=1.8, 7.8 Hz, 2H), 10.44 (s, 2H). Physical data of the compound was consistent with that reported in literature.

reactant | 2,2′-Bis-(methoxymethoxy)bibenzene | 27.4 mmol, 7.5 g | COCOC1=C(C=CC=C1)C1=C(C=CC=C1)OCOC | C16H18O4
reactant | nBuLi | 80 mmol, 1.6M, 50 mL | [Li]CCCC
reactant | DMF | 260 mmol, 20 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
reactant | Et2O | 300 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,2′-Bis-(methoxymethoxy)-3,3′-Diformylbibenzene | 3.925 g, 47% yield | COCOC1=C(C=CC=C1C=O)C1=C(C(=CC=C1)C=O)OCOC | C18H18O6
